US08809363B2
Ethyl-2-tert-butoxy(4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl)acetate
Ethyl-2-[4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-yl]-2-hydroxyacetate (3 g, 7 mmol) was taken up in 20 mL dichloromethane and tert-butyl acetate (20 mL, 170 mmol) and the mixture coiled to 3° C. in an ice/water bath. Concentrated sulphuric acid (1.14 mL, 21 mmol) was then added dropwise and the mixture allowed to warm to room temperature over 3 hours. The reaction was quenched by the addition of 100 mL of 1M NaOH and 100 mL water and the organic layer separated. The organics were washed with brine (100 mL), dried over MgSO4 and evaporated under reduced pressure. The residue was purified by flash chrmoatography using a gradient of EtOAc in heptane as eluant (0:100 to 30:70) to afford the title compound as a white solid (1.22 g, 36%). 1H NMR (400 MHz, CDCl3) δ 1.20 (t, 3H), 1.23 (s, 9H), 1.81-1.94 (m, 4H), 2.66 (s, 3H), 2.80-2.87 (m, 2H), 3.22-3.31 (m, 2H), 4.10-4.22 (m, 2H), 5.90 (s, 1H).

reactant | Ethyl-2-[4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-yl]-2-hydroxyacetate | 7 mmol, 3 g | C(C)OC(C(O)C=1C(=C2C(=NC1C)SC1=C2CCCC1)I)=O | C16H18INO3S
reactant | tert-butyl acetate | 170 mmol, 20 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | sulphuric acid | 21 mmol, 1.14 mL | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Ethyl-2-tert-butoxy(4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl)acetate | 1.22 g, 36% | C(C)OC(C(OC(C)(C)C)C=1C(=C2C(=NC1C)SC1=C2CCCC1)I)=O | C20H26INO3S
